US08609680B2
Preparation of tert-Butyl 7-[(4-methoxyphenyl)acetyl]-2,7-diazaspiro[3.5]nonane-2-carboxylate (I-1a)
To a solution of p-methoxyphenylacetic acid (1.26 g, 7.61 mmol) and tert-butyl 2,7-diazaspiro[3.5]nonane-2-carboxylate (2.00 g, 7.61 mmol) in dichloromethane (25 mL) was added triethylamine (2.12 mL, 15.2 mmol) and HATU (3.47 g, 9.12 mmol). The reaction was stirred for 15 hours. The reaction mixture was partitioned between dichloromethane and saturated sodium bicarbonate and the aqueous phase was washed with dichloromethane (2×20 mL). The combined organic layers were washed with water and brine, and dried over anhydrous MgSO4. Filtration and solvent removal afforded a crude product which was purified by silica chromatography on a Combiflash ISCO purification system (Teledyne Isco Inc., Lincoln, Nebr.), 100/0 to 50/50 heptanes/ethyl acetate gradient. The final product (I-1a) was obtained as clear oil which solidified upon standing at ambient temperature (2.75 g, 96%). MS (ES+) 375.4 (M+H)+. 1H NMR (CDCl3) δ 1.41 (s, 9H), 1.50 (br t, 2H), 1.65 (br t, 2H), 3.32 (br t, 2H), 3.52 (br t, 2H), 3.57-3.64 (m, 6H), 3.77 (s, 3H), 6.83 (d, 2H), 7.12 (d, 2H).

reactant | p-methoxyphenylacetic acid | 7.61 mmol, 1.26 g | COC1=CC=C(C=C1)CC(=O)O | C9H10O3
reactant | tert-butyl 2,7-diazaspiro[3.5]nonane-2-carboxylate | 7.61 mmol, 2.00 g | C1N(CC12CCNCC2)C(=O)OC(C)(C)C | C12H22N2O2
reactant | triethylamine | 15.2 mmol, 2.12 mL | C(C)N(CC)CC | C6H15N
reactant | HATU | 9.12 mmol, 3.47 g | CN(C)C(=[N+](C)C)ON1C2=C(C=CC=N2)N=N1.F[P-](F)(F)(F)(F)F
solvent | dichloromethane | 25 mL | ClCCl | CH2Cl2
product | tert-Butyl 7-[(4-methoxyphenyl)acetyl]-2,7-diazaspiro[3.5]nonane-2-carboxylate | COC1=CC=C(C=C1)CC(=O)N1CCC2(CN(C2)C(=O)OC(C)(C)C)CC1 | C21H30N2O4
